US07968328B2
(R)-1-(4-tert-Butoxyphenyl)ethylamine (89.4 g, 0.463 mol) was dissolved in 10% hydrochloric acid (200 ml) and heated to 85° C. At approx. 80° C., vigorous gas evolution set in. The mixture was stirred at 85° C. for another three hours, after which the gas evolution had stopped. The pale yellow mixture was allowed to cool to room temperature and then 20% NaOH was added dropwise up to a pH of 10.2. The deprotected phenol precipitated out overnight in the form of a pale yellow powder. It was filtered off with suction and dried in a drying cabinet overnight. For purification, the crude product was digested with tert-butyl methyl ether (200 ml). The suspension was filtered and the filter residue was dried again under reduced pressure. 51.3 g (63%) of (R)-4-(1-aminoethyl)phenol were obtained in the form of a pale yellow powder.

reactant | (R)-1-(4-tert-Butoxyphenyl)ethylamine | 0.463 mol, 89.4 g | C(C)(C)(C)OC1=CC=C(C=C1)[C@@H](C)N | C12H19NO
reactant | NaOH | [OH-].[Na+]
solvent | hydrochloric acid | 200 ml | Cl | ClH
product | (R)-4-(1-aminoethyl)phenol | 51.3 g, 63% | N[C@H](C)C1=CC=C(C=C1)O | C8H11NO
